US09126969B2
7 g of 4-fluoro-2-nitro-5-perhydro-1,4-oxazepin-4-ylphenylamine in solution in 170 mL of methanol are hydrogenated under 1 bar of hydrogen pressure in the presence of 700 mg of palladium-on-charcoal at 22° C. for 10 hours. The reaction crude is filtered through celite and the filtrate is concentrated under vacuum in a rotary evaporator. After evaporation, the reaction crude is purified by flash chromatography (elution dichloromethane/methanol). 3 g of 4-fluoro-5-perhydro-1,4-oxazepin-4-ylbenzene-1,2-diamine are isolated. 1H NMR spectrum (400 MHz, DMSO-d6, δ in ppm): 1.88 (m, 2H); 3.11 (m, 4H); from 3.64 to 3.74 (m, 4H); 4.20 (broad s, 2H); 4.26 (broad s, 2H); from 6.25 to 6.31 (m, 2H).

reactant | 4-fluoro-2-nitro-5-perhydro-1,4-oxazepin-4-ylphenylamine | 7 g | FC1=CC(=C(C=C1N1CCOCCC1)N)[N+](=O)[O-] | C11H14FN3O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 170 mL | CO | CH4O
catalyst | palladium-on-charcoal | 700 mg | [Pd] | Pd
product | 4-fluoro-5-perhydro-1,4-oxazepin-4-ylbenzene-1,2-diamine | 3 g | FC=1C=C(C(=CC1N1CCOCCC1)N)N | C11H16FN3O
